US04791199
acylating α-[2-[bis(1-methylethyl)amino]ethyl]-α-phenyl-2-piperidineacetamide with benzoic anhydride to form 1-benzoyl-α-[2-[bis(1-methylethyl)amino]ethyl]-α-phenyl-2-piperidineacetamide;

reactant | α-[2-[bis(1-methylethyl)amino]ethyl]-α-phenyl-2-piperidineacetamide | CC(C)N(CCC(C(=O)N)(C1NCCCC1)C1=CC=CC=C1)C(C)C | C21H35N3O
reactant | benzoic anhydride | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
product | 1-benzoyl-α-[2-[bis(1-methylethyl)amino]ethyl]-α-phenyl-2-piperidineacetamide | C(C1=CC=CC=C1)(=O)N1C(CCCC1)C(C(=O)N)(C1=CC=CC=C1)CCN(C(C)C)C(C)C | C28H39N3O2
